US09233962B2
Intermediate 37: 9-[4-(Hexahydro-1H-azepin-1-yl)butyl]-2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine
Prepared similarly to Intermediate 36 from 2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-1 H-purin-6-amine trifluoroacetate, 1-bromo-4-chlorobutane, and hexahydro-1H-azepine but with three sequential MDAPs using Method B followed by Method A (×2).

reactant | 2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-1 H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C[C@@H](CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
reactant | hexahydro-1H-azepine | N1CCCCCC1 | C6H13N
product | 9-[4-(Hexahydro-1H-azepin-1-yl)butyl]-2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine | N1(CCCCCC1)CCCCN1C2=NC(=NC(=C2N=C1OC)N)O[C@H](CCC)C | C21H36N6O2
